US05332731
Pivaloyloxymethyl 7-[(Z)-2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-(tetrahydropyran-4-yl)methylthio-3-cephem-4-carboxylate
Sodium 7-[(Z)-2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-(tetrahydropyran-4-yl)methylthio-3-cephem-4-carboxylate (200 mg) as prepared in Example 31(b) was reacted with iodomethyl pivalate (181 mg) similarly to Example 28 for the esterification reaction. The resulting reaction solution was post-treated and the produced compound was recovered and purified similarly to Example 28 to give the titled compound (120 mg; 51%).

reactant | Sodium 7-[(Z)-2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-(tetrahydropyran-4-yl)methylthio-3-cephem-4-carboxylate | 200 mg | NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)CC2CCOCC2)C(=S)[O-])C1=O)=N/OC.[Na+]
reactant | iodomethyl pivalate | 181 mg | C(C(C)(C)C)(=O)OCI | C6H11IO2
product | Pivaloyloxymethyl 7-[(Z)-2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-(tetrahydropyran-4-yl)methylthio-3-cephem-4-carboxylate | 120 mg, 51% | NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)CC2CCOCC2)C(=S)OCOC(C(C)(C)C)=O)C1=O)=N/OC | C25H33N5O7S3
